US06420359B1
a) 5-Bromo-2-chloro-N-(6-chloro-2-methyl-3-pyridinyl)-3-pyridinecarboxamide
NaHCO3 (3.9 g, 46.4 mmol) was added to a solution of 3-amino-2-chloro-6- methylpyridine (2.2 g, 15.4 mmol; prepared as described by K. G. Grozinger et al. J. Heterocyclic Chem. 1995,32,259-263) in MeCN (50 mL). The resulting suspension was stirred for 15 min. and a solution of crude 5-bromo-2-chloro-3-pyridinecarbonyl chloride (prepared from 5-bromo-2-hydroxy-3-pyridinecarboxylic acid and SOCl2 [as described by T. W. Gero et al. in Synth. Commun. 1989, 19, 553-559 (incorporated herein by reference) but with omission of the aqueous work-up] (4 g,) in MeCN (10 mL) was introduced over 30 min. The resulting suspension was stirred at room temperature. After 24 h, the mixture was poured into a mixture of water (100 mL) and ice (10 g) and stirred for 20 min. The suspension was filtered and the resulting solid was washed with water (50 mL) and hexane (25 mL), then dried over P2O5 under reduced pressure to give the title compound (1.8 g, 31% yield) as a white powder.

reactant | NaHCO3 | 46.4 mmol, 3.9 g | C(=O)(O)[O-].[Na+]
reactant | 3-amino-2-chloro-6- methylpyridine | 15.4 mmol, 2.2 g | NC=1C(=NC(=CC1)C)Cl | C6H7ClN2
reactant | 5-bromo-2-chloro-3-pyridinecarbonyl chloride | BrC=1C=C(C(=NC1)Cl)C(=O)Cl | C6H2BrCl2NO
reactant | 5-bromo-2-hydroxy-3-pyridinecarboxylic acid | BrC=1C=C(C(=NC1)O)C(=O)O | C6H4BrNO3
reactant | SOCl2 | O=S(Cl)Cl | Cl2OS
solvent | MeCN | 50 mL | CC#N | C2H3N
solvent | MeCN | 10 mL | CC#N | C2H3N
solvent | water | 100 mL | O | H2O
product | 5-Bromo-2-chloro-N-(6-chloro-2-methyl-3-pyridinyl)-3-pyridinecarboxamide | 1.8 g, 31% yield | BrC=1C=C(C(=NC1)Cl)C(=O)NC=1C(=NC(=CC1)Cl)C | C12H8BrCl2N3O
